US08497380B2
Methyl 2,3,4-trimethoxybenzoic acid (25.7 g, 114 mmol) was dissolved in DCM (25 mL) under argon. BCl3 (133 mL of an 1M solution in DCM, 133 mmol) was added dropwise and the reaction mixture was left at it for 2 hours. EtOH (200 mL) was added and the reaction mixture was stirred for 2 hours. Filter the precipitate and recryst. from EtOAc-petrol ether to provide 6 g (25%) of 2-hydroxy-3,4-dimethoxy-benzoic acid methyl ester as a white solid. 1H NMR (CDCl3) δ=10.90 (1H, s), 7.59 (1H, d), 6.48 (1H, d), 3.93 (3H, s), 3.92 (3H, s), 3.89 (3H, s). 2-Hydroxy-3,4-dimethoxy-benzoic acid methyl ester (6 g, 28.2 mmol) was redissolved in NMP (35 mL) and treated with tert-butyl bromoacetate (42.4 mmol) and K2CO3 (42.4 mmol). The reaction mixture was heated to 50° C. overnight. The reaction mixture was poured into water (300 mL). The organic products were extracted with EtOAc (2×100 mL), and the combined organic phases washed with NaCl (sat, 100 mL). The organic phase was dried over Na2SO4, evaporated in vacuo and purified by flash chromatography using a gradient of EtOAc in heptane as eluent to provide 2-tert-butoxycarbonylmethoxy-3,4-dimethoxy-benzoic acid methyl ester (compound 506a) as a colourless oil. 1H NMR (CDCl3) δ=7.58 (1H, d), 6.71 (1H, d), 4.56 (2H, s), 3.90 (3H, s), 3.87 (3H, s), 3.86 (3H, s), 1.50 (9H, s). Yield 8.19 g (89%). 2-tert-Butoxycarbonylmethoxy-3,4-dimethoxy-benzoic acid methyl ester (8.19 g, 25.1 mmol) was dissolved in DCM (50 mL) and treated with triethylsilane (4 mL, 25.1 mmol) and TFA (9.66 mL, 125.5 mmol). The reaction mixture was left overnight. The reaction mixture was evaporated in vacuo, redissolved in toluene (200 mL) and evaporated to dryness. This procedure was repeated three times to afford 2-carboxymethoxy-3,4-dimethoxy-benzoic acid methyl ester (compound 506b) as a white solid. 1H NMR (CDCl3) δ=12.6 (1H, bs), 7.75 (1H, d), 6.73 (1H, d), 4.84 (2H, s), 3.95 (3H, s), 3.92 (3H, s), 3.85 (3H, s). Yield 6.71 g (99%). 2-Carboxymethoxy-3,4-dimethoxy-benzoic acid methyl ester (6.71 g, 24.8 mmol) was dissolved in dry DMF (130 mL) under argon. Propylamine (4.1 mL, 49.8 mmol) was added followed by HATU (11.32 g, 29.8 mmol) and the reaction mixture was left overnight. The solvent was evaporated in vacuo and the crude mixture was redissolved in EtOAc (150 mL). Wash the organic phase with CaCl2 aq. (2×50 mL), water (2×50 mL) and brine (50 mL). The organic phase was dried over Na2SO4, evaporated in vacuo and purified by flash chromatography using a gradient of EtOAc in heptane as eluent. 3,4-Dimethoxy-2-propylcarbamoylmethoxy-benzoic acid methyl ester (compound 506c) was obtained as a white solid. 1H NMR (CDCl3) δ=8.47 (1H, bs), 7.71 (1H, d), 6.70 (1H, d), 4.69 (2H, s), 3.93 (3H, s), 3.87 (3H, s), 3.83 (3H, s), 3.33 (2H, q), 1.64 (2H, m), 0.99 (3H, t). Yield 6.67 g (86%).

reactant | Methyl 2,3,4-trimethoxybenzoic acid | 114 mmol, 25.7 g | CC=1C(=C(C(=C(C(=O)O)C1)OC)OC)OC | C11H14O5
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
reactant | EtOH | 200 mL | CCO | C2H6O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-3,4-dimethoxy-benzoic acid methyl ester | 6 g, 25% | COC(C1=C(C(=C(C=C1)OC)OC)O)=O | C10H12O5
